US08404709B2
8-(3-Acetyl-5-propoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)-2-methyl-4H-chromen-4-one
130 mg (0.35 mmol) of 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one are suspended in THF (8 ml), and 0.39 ml (0.39 mmol) of N′″-(tert-butyl)-N,N′,N″-tris[tris(dimethylamino)phosphoranylidene]phosphorimide triamide (phosphazene base P4-t-Bu; 1 M in hexane) is added. Then 68 μl (0.41 mmol) of di-n-propyl sulfate are added to the dark red solution. The decolorized solution is stirred for 10 min, then mixed with methanol and concentrated. The residue is purified by preparative HPLC to result in 63 mg (43% of theory) of the title compound as a white solid.

reactant | 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one | 0.35 mmol, 130 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C=1C=CC=C2C(C=C(OC12)C)=O)=O)C | C21H18N2O4
reactant | di-n-propyl sulfate | 0.41 mmol, 68 μl | S(=O)(=O)(OCCC)OCCC | C6H14O4S
reactant | methanol | CO | CH4O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 8-(3-Acetyl-5-propoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)-2-methyl-4H-chromen-4-one | C(C)(=O)C1=C(NC2=CC=NC(=C2C1C=1C=CC=C2C(C=C(OC12)C)=O)OCCC)C | C24H24N2O4
